US08791132B2
3-(2,8-Dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propanoic acid (20 mg, 0.057 mmol) was charged in pyridine (0.5 mL) under nitrogen. DMAP (9.73 mg, 0.08 mmol) and (Boc)2O (14 mg, 0.069 mmol) were added into it. The reaction mixture was stirred at 60° C. for 30 min and allowed to come to RT. Tert-butanol (84.81 mg, 1.146 mmol) was added dropwise and the reaction mixture was stirred at RT for 1 h. 1M citric acid (5 mL) was added and reaction mixture was then washed with DCM (5 mL). The organic layer was concentrated and the crude product was purified by reverse phase HPLC to obtain tert-butyl 3-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propanoate (15.4 mg, TFA salt). 1H NMR (CD3OD, TFA salt) δ (ppm): 8.49 (d, 2H), 7.53 (d, 2H), 7.3 (t, 1H), 7.24 (s, 1H), 7.05 (m, 1H), 5.5 (m, 1H), 4.6 (t, 1H), 4.24 (t, 1H), 3.8 (m, 3H), 3.3 (m, 2H), 3.13 (d, 2H), 2.89 (m, 1H), 2.77 (m, 1H), 2.4 (s, 3H), 1.39 s (9H). Separation by chiral HPLC provides enantiomers II-258a-b.

reactant | 3-(2,8-Dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propanoic acid | 0.057 mmol, 20 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C(=O)O)C2=CC=NC=C2)CC1 | C21H23N3O2
reactant | (Boc)2O | 0.069 mmol, 14 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Tert-butanol | 1.146 mmol, 84.81 mg | C(C)(C)(C)O | C4H10O
reactant | citric acid | 1M, 5 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.08 mmol, 9.73 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 3-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propanoate | 15.4 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C(=O)OC(C)(C)C)C2=CC=NC=C2)CC1 | C25H31N3O2
